US06300342B1
6-trifluoroacetylamino-quinoline
7.2 g (0.05 mol) of 6-amino-quinoline and 14.2 g (0.11 mol) of N,N-diisopropylethylamine are dissolved in 100 ml methylene chloride. Then 11.55 g (0.055 mol) of trifluoroacetic acid anhydride are added dropwise at about 0° C. and the mixture is stirred at this temperature for 1 hour. The precipitate formed is suction filtered and washed with methylene chloride and water and then dried. The mother liquor is extracted three times with methylene chloride, then the organic phase is separated off, dried over sodium sulphate, concentrated by rotary evaporation and combined with the precipitate obtained above.

reactant | 6-amino-quinoline | 0.05 mol, 7.2 g | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | N,N-diisopropylethylamine | 0.11 mol, 14.2 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoroacetic acid anhydride | 0.055 mol, 11.55 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 6-trifluoroacetylamino-quinoline | FC(C(=O)NC=1C=C2C=CC=NC2=CC1)(F)F | C11H7F3N2O
